US07737153B2
4-Methoxy-1,2-benzisoxazole-3-amine
709.5 mg (9.45 mmol) of acetohydroxamic acid are initially charged in 8 ml of anhydrous dimethylformamide, and 1.06 g (9.45 mmol) of potassium tert-butoxide are added at room temperature. After 40 minutes of stirring, 1 g (6.62 mmol) of 2-fluoro-6-methoxybenzonitrile is added. The mixture is heated at 60° C. for 16 hours. 20 ml of saturated sodium chloride solution are then added to the reaction mixture. The precipitated crystals are filtered off with suction and washed with water.

reactant | acetohydroxamic acid | 9.45 mmol, 709.5 mg | C(C)(=O)NO | C2H5NO2
reactant | potassium tert-butoxide | 9.45 mmol, 1.06 g | CC(C)([O-])C.[K+]
reactant | 2-fluoro-6-methoxybenzonitrile | 6.62 mmol, 1 g | FC1=C(C#N)C(=CC=C1)OC | C8H6FNO
reactant | sodium chloride | 20 ml | [Cl-].[Na+]
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 4-Methoxy-1,2-benzisoxazole-3-amine | COC1=CC=CC2=C1C(=NO2)N | C8H8N2O2
